US05624943
680 mg of zinc foil cut into small sections (Aldrich 0.25 mm thickness, 99.999%) in 1 ml of absolute tetrahydrofuran is heated to 65° C. with 80 mg of 1,2-dibromoethane for 1 minute, cooled to 25° C., mixed with 40 μl of chlorotrimethylsilane and stirred for 15 minutes. A solution of 2.3 g of 3-iodobutyric acid methyl ester in 5 ml of absolute tetrahydrofuran is instilled in this activated zinc at 30° C., and the mixture is stirred for 16 hours at 35°-40° C. 4.3 ml of the thus obtained 2-methoxycarbonylpropylzinc iodide solution is instilled at -20° C. in a solution of 430 mg of copper(I) dyanid and 430 mg of lithium chloride in 1 ml of tetrahydrofuran. The reaction mixture is stirred for 5 minutes at 0° C., cooled again to -20° C., mixed with a solution of 1.1 g of 2-iodo-3-methoxypyridine-6-aldehyde in 2 ml of tetrahydrofuran and 2 ml of dichloromethane and 1.9 ml of boron trifluoride-ethyl ether complex, stirred for three hours at 0° C. and 20 hours at room temperature. The reaction mixture is poured in saturated ammonium chloride solution, the precipitate is suctioned off on diatomaceous earth, the filter residue is washed with ethyl acetate, the organic phase is separated and the water phase is also shaken out three times with ethyl acetate. The organic phase is dried on sodium sulfate, concentrated by evaporation and the crude product is chromatographed on silica gel with hexane/0-20% ethyl acetate. 1.11 g of (5RS)-5-hydroxy-5-(2-iodo-3-methoxy-6-pyridyl)-pentanoic acid methyl ester is obtained as oil.

reactant | 1,2-dibromoethane | 80 mg | BrCCBr | C2H4Br2
reactant | chlorotrimethylsilane | 40 μl | Cl[Si](C)(C)C | C3H9ClSi
reactant | 3-iodobutyric acid methyl ester | 2.3 g | COC(CC(C)I)=O | C5H9IO2
reactant | 2-methoxycarbonylpropylzinc iodide | [I-].COC(=O)C(C[Zn+])C
reactant | lithium chloride | 430 mg | [Cl-].[Li+]
reactant | 2-iodo-3-methoxypyridine-6-aldehyde | 1.1 g | IC1=NC(=CC=C1OC)C=O | C7H6INO2
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | ammonium chloride | [Cl-].[NH4+]
catalyst | zinc | 680 mg | [Zn] | Zn
catalyst | copper(I) | 430 mg | [Cu+]
product | (5RS)-5-hydroxy-5-(2-iodo-3-methoxy-6-pyridyl)-pentanoic acid methyl ester | 1.11 g | COC(CCCC(C1=CC=C(C(=N1)I)OC)O)=O | C12H16INO4
